US07163940B2
To a solution of 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-3-phenyl-2-propyn-1-one (246 mg, 0.66 mmol) in N,N-dimethylformamide (10 mL) was added N-cyclopentylguanidine hydrochloride (320 mg, 1.97 mmol) followed by solid potassium carbonate (274 mg, 1.97 mmol). The resultant mixture was heated to 75° C. for 4 hours The reaction mixture was cooled to room temperature, diluted with water and ether was added. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics were dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (4:1, hexanes:ethyl acetate) provided 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-6-phenyl-2-pyrimidinamine (265 mg, 84%) as a solid. 1H NMR (CDCl3) δ 8.49 (d, 1H), 7.80–7.75 (m, 4H), 7.44–7.41 (m, 3H), 7.33 (m, 1H), 7.22 (t, 2H), 7.09 (d, 1H), 6.82 (s, 1H), 5.25 (d, 1H), 4.49 (m, 1H), 2.22–2.12 (m, 2H), 1.88–1.61 (m, 6H); 19F NMR (CDCl3) δ −112.89; MS m/z 484 (M+1).

reactant | 1-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-3-phenyl-2-propyn-1-one | 0.66 mmol, 246 mg | ClC1=CC=CC=2N1N=C(C2C(C#CC2=CC=CC=C2)=O)C2=CC=C(C=C2)F | C22H12ClFN2O
reactant | N-cyclopentylguanidine hydrochloride | 1.97 mmol, 320 mg | Cl.C1(CCCC1)NC(=N)N
reactant | potassium carbonate | 1.97 mmol, 274 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 4-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-N-cyclopentyl-6-phenyl-2-pyrimidinamine | 265 mg, 84% | ClC1=CC=CC=2N1N=C(C2C2=NC(=NC(=C2)C2=CC=CC=C2)NC2CCCC2)C2=CC=C(C=C2)F | C28H23ClFN5
